US04304790
A. 4'-benzoyloxy-3'-methylthio-2-(trifluoroacetamido)acetophenone
Add trifluoroacetamide (6.8 g=60 mmol) and potassium carbonate (8.0 g=60 mmol) to a solution of 4'-benzoyloxy-3'-methylthio-2-bromoacetophenone (11.0 g=30 mmol) in 200 ml acetonitrile. Reflux for 16 hours, allow to cool, filter, and concentrate. Dissolve the residue in ethyl acetate, wash with 1.0 N sodium hydroxide, then water. Dry, concentrate and treat the residue with ether to obtain the product as a yellow solid.

reactant | trifluoroacetamide | 60 mmol, 6.8 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | potassium carbonate | 60 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4'-benzoyloxy-3'-methylthio-2-bromoacetophenone | 30 mmol, 11.0 g | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(CBr)=O)SC | C16H13BrO3S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4'-benzoyloxy-3'-methylthio-2-(trifluoroacetamido)acetophenone | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(CNC(C(F)(F)F)=O)=O)SC | C18H14F3NO4S
